US07399759B2
tert-Butyl 6-cyano-2-pyridinecarboxylate
A mixture of tert-butyl 2-pyridinecarboxylate N-oxide (12.4 g, 63 mmol), trimethylsilyl cyanide (9.6 g, 96 mmol), N,N-dimethylcarbamoyl chloride (10.3 g, 95 mmol) and nitroethane (80 ml) was stirred at room temperature for 3 days. The reaction mixture was concentrated under reduced pressure. The residue was subjected to a silica gel column chromatography, eluted with hexane-ethyl acetate (3;1, v/v) and recrystallized from tetrahydrofuran-hexane to give the titled compound (11.1 g, 85%).

reactant | tert-butyl 2-pyridinecarboxylate N-oxide | 63 mmol, 12.4 g | [N+]=1(C(=CC=CC1)C(=O)OC(C)(C)C)[O-] | C10H13NO3
reactant | trimethylsilyl cyanide | 96 mmol, 9.6 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 95 mmol, 10.3 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | nitroethane | 80 ml | [N+](=O)([O-])CC | C2H5NO2
product | tert-Butyl 6-cyano-2-pyridinecarboxylate | 11.1 g, 85% | C(#N)C1=CC=CC(=N1)C(=O)OC(C)(C)C | C11H12N2O2
